US07273878B2
To 222 g (3.0 mol) of butanol, 21.0 g (0.50 mol) of cyanamide and 57.5 g (0.50 mol) of carbamimidoyl chloride hydrochloric acid salt were dissolved, followed by stirring at 60° C. for 1 hour. The reaction liquid was concentrated to obtain 2-butylisourea hydrochloric acid salt. To 500 ml of N,N-dimethylformamide, 2-butylisourea hydrochloric acid salt obtained, 186 g (1.0 mol) of ethyl 2-acetyl-3-ethoxyacrylate and 82.0 g (1.0 mol) of sodium acetate were suspended, followed by stirring at 100° C. for 4 hours. The reaction liquid was cooled and then poured in ice-water, and extracted with diisopropyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate, adding “Florisil” and filtering. The solution was concentrated under reduced pressure to obtain 192 g (yield: 81%) of ethyl 2-butoxy-4-methylpyrimidine-5-carboxylate.

reactant | butanol | 3.0 mol, 222 g | C(CCC)O | C4H10O
reactant | cyanamide | 0.50 mol, 21.0 g | N#CN | CH2N2
reactant | carbamimidoyl chloride hydrochloric acid salt | 0.50 mol, 57.5 g | Cl.C(N)(=N)Cl
product | 2-butylisourea hydrochloric acid salt | Cl.C(CCC)OC(N)=N | InChI=1S/C5H12N2O.ClH/c1-2-3-4-8-5(6)7;/h2-4H2,1H3,(H3,6,7);1H
